US07700589B2
1d) (R)-2-amino-3-(3,4-diethyl-phenyl)-N-((1S,2S)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide
In a three-necked flask 250 mL of a 1 molar solution of lithium-bis-(trimethylsilyl)-amide (250 mmol) and 15.4 g (64.1 mmol) of (1S,2S)-pseudoephedrine-glycinamide hydrate were added to 500 mL of THF under a nitrogen atmosphere and while cooling with ice. The mixture was stirred for 1.5 h at 0° C., slowly combined with 15.4 g (67.1 mmol) of 4-bromomethyl-1,2-diethyl-benzene, dissolved in 10 mL of THF, and stirred for 2 h at 0° C. While cooling with ice 10 mL of water and 6 mL semiconcentrated HCl were added dropwise, stirred for a further 20 min and made alkaline with concentrated ammonia solution. The reaction mixture was exhaustively extracted with EtOAc, the combined organic phases were dried and evaporated down under reduced pressure. The residue remaining was purified through silica gel. The desired product was obtained in the form of a solid.

reactant | lithium bis-(trimethylsilyl)-amide | 250 mmol | [Li].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (1S,2S)-pseudoephedrine glycinamide hydrate | 64.1 mmol, 15.4 g | C[C@@H]([C@H](C1=CC=CC=C1)O)NC.O.NCC(=O)N
reactant | 4-bromomethyl-1,2-diethyl-benzene | 67.1 mmol, 15.4 g | BrCC1=CC(=C(C=C1)CC)CC | C11H15Br
reactant | HCl | 6 mL | Cl | ClH
reactant | ammonia | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (R)-2-amino-3-(3,4-diethyl-phenyl)-N-((1S,2S)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-propionamide | N[C@@H](C(=O)N(C)[C@H]([C@H](C1=CC=CC=C1)O)C)CC1=CC(=C(C=C1)CC)CC | C23H32N2O2
